US04650753
2.3 Grams (3.25 m moles) of Z-D-Ala-Phe-Arg(NO2)-CHA was suspended in a mixed solvent of 113 ml of MeOH, 35 ml of H2O and 2.1 ml of 1N-HCl. To this suspension was added 1 g of palladium black and reduced by hydrogenation at 30° C. for 4 hours. After the hydrogenation was completed the catalyst was removed by filtration, further the solvent was removed by evaporation under reduced pressure. The residue thus obtained was purified by using a gel filtration column of TOYOPEARL HW 40F with MeOH as the developing solvent to obtain 1.5 g (78.2%) of H-D-Ala-Phe-Arg-CHA.2HCl.

reactant | Z-D-Ala-Phe-Arg(NO2) | N([C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C26H33N7O8
reactant | MeOH | 113 ml | CO | CH4O
reactant | HCl | Cl | ClH
catalyst | palladium black | 1 g | [Pd] | Pd
solvent | H2O | 35 ml | O | H2O
product | H-D-Ala-Phe-Arg | 1.5 g, 78.2% | N[C@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C18H28N6O4
